* Sky130 intrinsic gain length trend
.include "../models/sky130.lib.spice"

Vd1 d1 0 1.8
Vd2 d2 0 1.8
Vg g 0 0.9
Vs s 0 0

Xshort d1 g s 0 sky130_fd_pr__nfet_01v8 w=1.26 l=0.15
Xlong  d2 g s 0 sky130_fd_pr__nfet_01v8 w=2.52 l=0.30

.op
.control
run
let gm_short=@m.xshort.msky130_fd_pr__nfet_01v8[gm]
let gds_short=@m.xshort.msky130_fd_pr__nfet_01v8[gds]
let gain_short=gm_short/gds_short
let gm_long=@m.xlong.msky130_fd_pr__nfet_01v8[gm]
let gds_long=@m.xlong.msky130_fd_pr__nfet_01v8[gds]
let gain_long=gm_long/gds_long
print gm_short gds_short gain_short gm_long gds_long gain_long
.endc

.end

